US04307024
1,1,1-Triphenyl-2,2,2-trifluoroethane.
A mixture of 10.0 g (0.057 mol) trifluoroacetophenone, 100 ml of benzene, and 5 ml of trifluoromethyl sulfonic acid was stirred for 48 hours at room temperature. The product was worked up as in Example 6 to give a white crystalline mass. Thin-layer and high-pressure liquid chromatography indicated the product was a complex mixture of many components. The thin-layer chromatogram under ultraviolet light indicated the presence of many intensely white and blue fluorescent components. The product mixture was column-chromatographed on silica gel, the material then eluted with pentane, collected, and twice rechromatographed to give 6.2 g (35%), of the white crystalline triphenyl compound: m.p. 158°-159° C.; IR (KBr) 1600 and 1590 (Ar), 1150 (C-F), 760 and 695 cm-1 (monosubstituted phenyl); NMR δ 7.18 (broad singlet); mass spectrum m/e, 312 (parent ion), 243 (P-69), 165 (P-147), 120 (P-192). Analytical: calculated for C20H15F3 ; C, 76.92; H, 4.81; F, 18.2%. Found: C, 76.77; H, 4.84; F, 17.9%.

reactant | trifluoroacetophenone | 0.057 mol, 10.0 g | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | trifluoromethyl sulfonic acid | 5 ml | FC(F)(F)S(=O)(=O)O | CHF3O3S
reactant | KBr | [K+].[Br-]
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1,1,1-Triphenyl-2,2,2-trifluoroethane | C1(=CC=CC=C1)C(C(F)(F)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H15F3
